US04585768
3.36 g of (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are dissolved in 10 ml of pyridine, and 0.87 g of acetyl chloride is added dropwise thereto under ice-cooling. The mixture is stirred at room temperature for one hour. Then, the mixture is diluted by addition of chloroform. The diluted mixture is washed with 10% hydrochloric acid and water, and then evaporated under reduced pressure to remove solvent. The residue is recrystallized from a mixture of ether and n-hexane, whereby 3.37 g of (-)-cis-2-(4-methoxyphenyl)-3-acetoxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one is obtained as needles.

reactant | (-)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.36 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC(=C2)Cl | C16H14ClNO3S
reactant | acetyl chloride | 0.87 g | C(C)(=O)Cl | C2H3ClO
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (-)-cis-2-(4-methoxyphenyl)-3-acetoxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.37 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1OC(C)=O)=O)C=CC(=C2)Cl | C18H16ClNO4S
